US07592373B2
4.12.b. 5-nitro-2-(2-pyrrolidin-1-ylethyl)benzoxazole
A solution of 1 g (5.25 mmol) of 5-nitro-2-vinylbenzoxazole and 0.66 mL (8 mmol) of pyrrolidine in 8 mL of ethanol is stirred for 2 hours at ambient temperature. Then the reaction solution is evaporated down. The purification is carried out by column chromatography on silica gel (eluant: dichloromethane/ethanol/ammonia (20:1:0.1)). Yield: 0.74 g (53.9% of theory); C13H15N3O3 (M=261.28); calc.: molecular ion peak (M+H)+: 262; found: molecular ion peak (M+H)+: 262; Rf value: 0.2 (silica gel, dichloromethane/ethanol/ammonia (20:1:0.1)).

reactant | 5-nitro-2-vinylbenzoxazole | 5.25 mmol, 1 g | [N+](=O)([O-])C=1C=CC2=C(N=C(O2)C=C)C1 | C9H6N2O3
reactant | pyrrolidine | 8 mmol, 0.66 mL | N1CCCC1 | C4H9N
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 5-nitro-2-(2-pyrrolidin-1-ylethyl)benzoxazole | [N+](=O)([O-])C=1C=CC2=C(N=C(O2)CCN2CCCC2)C1 | C13H15N3O3
